US07226923B2
4-Bromo-2-(4-isopropylphenyl)-2H-phthalazin-1-one
4-Hydroxy-2-(4-isopropylphenyl)-2H-phthalazin-1-one (0.10 g, 0.36 mmol), phosphorus oxybromide (0.41 g, 1.4 mmol) and 2,6-di-tert-butyl-4-methylphenol (0.02 g, 0.09 mmol) were stirred at 150° C. for 30 min. H2O (100 ml) was added after cooling to room temperature. Extraction with dichloromethane, drying of the combined organic phases over Na2SO4 and evaporation of the solvent yielded the desired compound (0.05 g, 41%) which was used without any further characterization.

reactant | 4-Hydroxy-2-(4-isopropylphenyl)-2H-phthalazin-1-one | 0.36 mmol, 0.10 g | OC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)C(C)C | C17H16N2O2
reactant | phosphorus oxybromide | 1.4 mmol, 0.41 g | P(=O)(Br)(Br)Br | Br3OP
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.09 mmol, 0.02 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | H2O | 100 ml | O | H2O
product | 4-Bromo-2-(4-isopropylphenyl)-2H-phthalazin-1-one | 0.05 g, 41% | BrC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)C(C)C | C17H15BrN2O
